US08133907B2
N-tert-Butyl-2-methyl-nicotinamide
A 12-L, three-neck, round-bottom flask equipped with a mechanical stirrer, a thermocouple, and a nitrogen inlet gas adapter is charged with 2-methyl nicotinic acid (302 g, 2.2 mol), EDCI (464 g, 2.4 mol), HOBt (327.3 g, 2.4 mol, 1.1 equiv) and 4.5 L of anhydrous acetonitrile. The mixture is stirred for 45 minutes at room temperature to dissolve most of the solids and is then cooled to 5° C. using an ice-water bath. A mixture of t-butylamine (242 mL, 2.5 mol) and Hunig's base (402 mL, 2.5 mol) in 500 mL of anhydrous acetonitrile and 500 mL of anhydrous dichloromethane is added slowly over 45 minutes, maintaining the temperature below 10° C. The mixture is stirred for 15 hours at room temperature under nitrogen. The solvent is removed under reduced pressure and the residue is dissolved in ethyl acetate (3.0 L) then washed with saturated ammonium chloride solution (2.0 L). The organic-phase is dried over magnesium sulfate, filtered, and concentrated under reduced pressure. Purification of the resultant crude residue by silica gel flash column chromatography followed by trituration with 5% ethyl acetate/heptane gives the title compound.

reactant | 2-methyl nicotinic acid | 2.2 mol, 302 g | CC1=C(C(=O)O)C=CC=N1 | C7H7NO2
reactant | EDCI | 2.4 mol, 464 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 2.4 mol, 327.3 g, 1.1 equiv | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | t-butylamine | 2.5 mol, 242 mL | C(C)(C)(C)N | C4H11N
reactant | Hunig's base | 2.5 mol, 402 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 500 mL | C(C)#N | C2H3N
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
solvent | acetonitrile | 4.5 L | C(C)#N | C2H3N
product | N-tert-Butyl-2-methyl-nicotinamide | C(C)(C)(C)NC(C1=C(N=CC=C1)C)=O | C11H16N2O
